US06794397B2
2,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide
To a solution of 2,6-dichloronicotinic acid (100 mg, 0.52 mmol) in CH2Cl2 (10 mL) was added cyanuric chloride (96 mg, 0.52 mmol). The mixture was stirred for half an hour, then 4-methoxy-2-nitroaniline (88 mg, 0.52 mmol) and triethylamine (0.1 mL, 0.72 mmol) were added. The resulting mixture was stirred at room temperature overnight and then diluted with ethyl acetate, washed with water. The organic phase was separated, dried over anhydrous Na2SO4, concentrated and purified by chromatography to give the title compound (40 mg, 22%) as a yellow solid. 1H NMR (DMSO-d6): 10.84 (bs, 1H), 8.09 (d, J=7.8, 1H), 7.75 (d, J=7.8, 1H), 7.57-7.52 (m, 2H), 7.37-7.33 (m, 1H), 3.86 (s, 3H).

reactant | 2,6-dichloronicotinic acid | 0.52 mmol, 100 mg | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | cyanuric chloride | 0.52 mmol, 96 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-methoxy-2-nitroaniline | 0.52 mmol, 88 mg | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide | 40 mg, 22% | ClC1=NC(=CC=C1C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])Cl | C13H9Cl2N3O4
